US07534797B2
3-(8-Chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-cyclobutanol
3-(8-Chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-cyclobutanone (5.0 g, 14 mmol) was dissolved in a 1:1 mixture of methanol (35.0 mL) and CH2Cl2 (35.0 mL). To the solution mixture sodium tetrahydroborate (560 mg, 14.0 mmol) was added slowly, gas evolution was observed. After 4.5 h at rt under nitrogen, the reaction was concentrated in vacuo. The crude mix was dissolved in EtOAc and washed with water. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified using HPFC Jones 50 gram silica gel column eluting with 50% EtOAc: Hex to 100% EtOAc, to yield the title compound as a light yellow solid; MS (ES+): m/z 349.81 (100) [MH+], 351.50 (30) [MH+++]; HPLC: tR=2.49 min (OpenLynx, polar—5 min); 1H NMR (CDCl3, 400 MHz) δ 2.41-2.54 (m, 2H) 2.78-3.05 (m, 1H) 3.12-3.32 (m, 1H) 4.08-4.75 (m, 1H) 5.30 (s, 1H) 7.31 (d, J=5.05 Hz, 1H) 7.57 (d, J=4.80 Hz, 1H)

reactant | 3-(8-Chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-cyclobutanone | 14 mmol, 5.0 g | ClC=1C=2N(C=CN1)C(=NC2I)C2CC(C2)=O | C10H7ClIN3O
reactant | sodium tetrahydroborate | 14.0 mmol, 560 mg | [BH4-].[Na+]
solvent | methanol | 35.0 mL | CO | CH4O
solvent | CH2Cl2 | 35.0 mL | C(Cl)Cl | CH2Cl2
product | 3-(8-Chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-cyclobutanol | ClC=1C=2N(C=CN1)C(=NC2I)C2CC(C2)O | C10H9ClIN3O
